US08633175B2
A mixture of methyl 4-iodo-3-(methyloxy)benzoate (3.25 g, 0.011 mol), sodium hydroxide (0.48 g, 0.012 mol) and water (30 mL) in methanol (30 mL) was heated in an oil bath at 65° C. for 3 hr. The mixture was concentrated in vacuo to remove the methanol and the aqueous residue was chilled in an ice bath. Concentrated aqueous hydrogen chloride was added until the pH was acidic and the mixture was stirred at ice bath temperature. The resulting solid was filtered, washed with water and dried to give 4-iodo-3-(methyloxy)benzoic acid as a white solid, used without further purification. LC/MS (method A) tR 2.35 min; m/z 279 (M+H).

reactant | methyl 4-iodo-3-(methyloxy)benzoate | 0.011 mol, 3.25 g | IC1=C(C=C(C(=O)OC)C=C1)OC | C9H9IO3
reactant | sodium hydroxide | 0.012 mol, 0.48 g | [OH-].[Na+]
reactant | water | 30 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 4-iodo-3-(methyloxy)benzoic acid | IC1=C(C=C(C(=O)O)C=C1)OC | C8H7IO3
